US07960404B2
Stage 2:1-(8-Phenyl-1,4-dioxaspiro[4,5]dec-8-yl)azetidine
A solution of 8-azetidin-1-yl-1,4-dioxaspiro[4,5]decane-8-carbonitrile (2.20 g, 9.9 mmol) in anhydrous tetrahydrofuran (25 ml) was added dropwise under argon and with ice cooling to a 2 M solution of phenyl magnesium chloride in tetrahydrofuran (12 ml, 24 mmol) and then the mixture was stirred overnight at room temperature. After adding saturated ammonium chloride solution (5 ml) and water (5 ml) the phases were separated and the aqueous phase was extracted with diethyl ether (3×50 ml). The combined organic phases were dried with sodium sulfate and concentrated to small volume under vacuum. The crude product was purified by flash chromatography (100 g, 20×4.0 cm) with ethyl acetate/cyclohexane (1:1). Yield: 670 mg (25%), colorless oil.

reactant | 8-azetidin-1-yl-1,4-dioxaspiro[4,5]decane-8-carbonitrile | 9.9 mmol, 2.20 g | N1(CCC1)C1(CCC2(OCCO2)CC1)C#N | C12H18N2O2
reactant | phenyl magnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24 mmol, 12 ml | O1CCCC1 | C4H8O
product | 1-(8-Phenyl-1,4-dioxaspiro[4,5]dec-8-yl)azetidine | C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)N1CCC1 | C17H23NO2
